US04728645
To a solution of 5.75 g of thionylchloride in 80 ml of methylene chloride is added 8.4 g of 1-(α-ethoxycarbonyl-p-cyanobenzyl)-1H-imidazole-5-propanol as a solid in portions. When addition is complete, the solution is refluxed for 1.5 h, cooled in ice and filtered to obtain 5-(3-chloropropyl)-1-(α-ethoxycarbonyl-p-cyanobenzyl)-1H-imidazole hydrochloride. The salt is partitioned between methylene chloride and saturated sodium bicarbonate. The organic extracts were washed with water, dried over sodium sulfate and evaporated to yield the free base.

reactant | thionylchloride | 5.75 g | S(=O)(Cl)Cl | Cl2OS
reactant | 1-(α-ethoxycarbonyl-p-cyanobenzyl)-1H-imidazole-5-propanol | 8.4 g | C(C)OC(=O)C(C1=CC=C(C=C1)C#N)N1C=NC=C1CCCO | C17H19N3O3
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | 5-(3-chloropropyl)-1-(α-ethoxycarbonyl-p-cyanobenzyl)-1H-imidazole hydrochloride | Cl.ClCCCC1=CN=CN1C(C1=CC=C(C=C1)C#N)C(=O)OCC | InChI=1S/C17H18ClN3O2.ClH/c1-2-23-17(22)16(14-7-5-13(10-19)6-8-14)21-12-20-11-15(21)4-3-9-18;/h5-8,11-12,16H,2-4,9H2,1H3;1H
